* OUT (субсхема из нетлиста KiCad)
.subckt OUT AC_BASE AC_CTL AC_PNP_BASE AC_REQ AC_REQ_OUT FAN_GATE FAN_PWM_CTL FAN_PWM_NODE GND VCC_12V
  SQ1 FAN_PWM_NODE GND FAN_GATE 0 SW_GP
  SQ3 AC_PNP_BASE GND AC_BASE 0 SW_GP
  SQ4 AC_REQ VCC_12V AC_PNP_BASE 0 SW_GP
  R13 FAN_PWM_CTL FAN_GATE 1k
  R14 FAN_PWM_NODE VCC_12V 4.7k
  R15 FAN_PWM_NODE unconnected-(R15-Pad2) 1k
  R18 AC_CTL AC_BASE 10k
  R19 AC_BASE GND 100k
  R20 AC_PNP_BASE VCC_12V 10k
  R21 AC_REQ AC_REQ_OUT 1k
.ends OUT
